US07700633B2
5-Benzyloxy-6-formylamino-1H-indole-2-carboxylic acid ethyl ester (0.2 g, 0.591 mmol) is suspended in a 9:1 mixture of acetone/water (10 mL). The suspension is treated with 1N HCl (1.8 mL) and brought to reflux for 1 h. The separated solid is filtered, washed with saturated aqueous sodium bicarbonate and water, and air dried for 2 h to afford 6-amino-5-benzyloxy-1H-indole-2-carboxylic acid ethyl ester as a grey solid: (M−H)−=311.

reactant | 5-Benzyloxy-6-formylamino-1H-indole-2-carboxylic acid ethyl ester | 0.591 mmol, 0.2 g | C(C)OC(=O)C=1NC2=CC(=C(C=C2C1)OCC1=CC=CC=C1)NC=O | C19H18N2O4
reactant | HCl | 1N, 1.8 mL | Cl | ClH
solvent | acetone water | 10 mL | CC(=O)C.O
product | 6-amino-5-benzyloxy-1H-indole-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1NC2=CC(=C(C=C2C1)OCC1=CC=CC=C1)N | C18H18N2O3
